US04018785
A mixture of ethyl 2-[4-(N-thiazol-2-ylamino)phenyl]propionate (6.3g), methyl iodide (30 ml) and ethanol (30 ml) is heated at 50°-55° C for 20 hours under nitrogen atmosphere. After evaporation of ethanol and methyl iodide, the resultant residue is washed with ether and ethyl acetate successively to give 3-methyl-2-[4-(1-ethoxycarbonylethyl)anilino]thiazolium iodide (8.0 g). (Yield 84 %).

reactant | ethyl 2-[4-(N-thiazol-2-ylamino)phenyl]propionate | 6.3g | S1C(=NC=C1)NC1=CC=C(C=C1)C(C(=O)OCC)C | C14H16N2O2S
reactant | methyl iodide | 30 ml | CI | CH3I
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-methyl-2-[4-(1-ethoxycarbonylethyl)anilino]thiazolium iodide | 8.0 g, Yield 84 % | [I-].C[N+]1=C(SC=C1)NC1=CC=C(C=C1)C(C)C(=O)OCC | InChI=1S/C15H18N2O2S.HI/c1-4-19-14(18)11(2)12-5-7-13(8-6-12)16-15-17(3)9-10-20-15;/h5-11H,4H2,1-3H3;1H
